### PR TITLE
[Merged by Bors] - feat: constructible sets in the prime spectrum

### PR DESCRIPTION
**Pull request by YaelDillies**
Provide tooling for manipulating constructible sets in the prime spectrum of a ring.

From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/ConstructibleSet.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+  unfold map Sigma.map; simp [RingHom.coe_id]
+
+lemma map_comp [DecidableEq S] [DecidableEq T] (f : S →+* T) (g : R →+* S)
+    (s : ConstructibleSetData R) : s.map (f.comp g) = (s.map g).map f := by
+  unfold map Sigma.map; simp [image_image, Function.comp_def]
+
+open scoped Classical in
+/-- Remove the zero polynomials from the data of a constructible set. -/
+noncomputable def reduce (S : ConstructibleSetData R) : ConstructibleSetData R :=
+  S.image fun ⟨_, r, f⟩ ↦ ⟨#{x | f x ≠ 0}, r, f ∘ Subtype.val ∘ (Finset.equivFin _).symm⟩
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/ConstructibleSet.lean:49]: Do we still need this?

Comment (YaelDillies) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/ConstructibleSet.lean]: No, you're right. I had completely overlooked that it wasn't used anymore

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/ConstructibleSet.lean [hunk 2]
```diff
@@ -0,0 +1,63 @@
...
+  unfold map Sigma.map; simp [RingHom.coe_id]
+
+lemma map_comp [DecidableEq S] [DecidableEq T] (f : S →+* T) (g : R →+* S)
+    (s : ConstructibleSetData R) : s.map (f.comp g) = (s.map g).map f := by
+  unfold map Sigma.map; simp [image_image, Function.comp_def]
+
+/-- Given the data of a constructible set `s`, namely finitely many tuples `(f, g₁, ..., gₙ)` such
+that `s = ⋃ (f, g₁, ..., gₙ), V(g₁, ..., gₙ) \ V(f)`, return `s`. -/
+def toSet (S : ConstructibleSetData R) : Set (PrimeSpectrum R) :=
+  ⋃ x ∈ S, zeroLocus (Set.range x.2.2) \ zeroLocus {x.2.1}
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/ConstructibleSet.lean:49]: I wonder why you can restrict to finite many `g`s? Are you only dealing with Noetherian rings or ...?

Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/ConstructibleSet.lean:49]: Oh I see, if the whole space is compact then any retrocompact set is compact.

File: Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean [hunk 3]
```diff
@@ -0,0 +1,63 @@
...
+## TODO
+
+Link to constructible sets in a topological space.
+-/
+
+open Finset
+open scoped Polynomial
+
+namespace PrimeSpectrum
+variable {R S T : Type*} [CommRing R] [CommRing S] [CommRing T]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean:23]: It seems nothing in this file needs additive inverses yet; can you change to CommSemiring?

File: Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean [hunk 4]
```diff
@@ -0,0 +1,63 @@
...
+
+variable (R) in
+/-- The data of a constructible set `s` is finitely many tuples `(f, g₁, ..., gₙ)` such that
+`s = ⋃ (f, g₁, ..., gₙ), V(g₁, ..., gₙ) \ V(f)`.
+
+To obtain `s` from its data, use `PrimeSpectrum.ConstructibleSetData.toSet`. -/
+abbrev ConstructibleSetData := Finset (Σ n, R × (Fin n → R))
```
Comment (alreadydone) [inline Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean:30]: The mixture of `Finset` and `Fin`-tuple in this definition is an interesting desing choice. Can you explain it (in connection to your use case) in the docstring? Why not use `Finset (R × Σ n, Fin n → R)`? How about `Finset (R × Multiset R)` or `Finset (R ×Finset R)`? (I guess the sum in `degBound` won't behave well under `Finset.map` but `Multiset.map` should be fine?) How about replacing the outer `Finset` by `Multiset` to avoid `DecidableEq` required by `Finset.map`?

Comment (erdOne) [reply Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean:30]: `Finset (R × Σ n, Fin n → R)` is different from what we have here. It only has one $$f \in R$$ but we have a $$f_i$$ and a family of $$g_{i, j}$$ for each component $$i$$. And we use indexed family because we need a fixed number of $$g_{i, j}$$'s for each $$i$$. Changing the outermost `Finset` to `Multiset` might be fine but I'm not sure if it is an improvement.

Comment (alreadydone) [reply Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean:30]: I'm not sure I understand; they are in canonical bijection because products distribute over sums:
```
import Mathlib
example : (Σ n, R × (Fin n → R)) ≃ R × Σ n, Fin n → R where
  toFun f := ⟨f.2.1, f.1, f.2.2⟩
  invFun f := ⟨f.2.1, f.1, f.2.2⟩
  left_inv _ := rfl
  right_inv _ := rfl
```
I seems you are giving a different reason for the choice of `Fin`-tuple over Finset than the one I guessed; it would be helpful to explain in the docstring what you mean by "a fixed number of $g_{i,j}$'s", and where and how you need them.

Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean:30]: The reason we want to deal with indexed families rather than (fin)sets is that indexed families are easier to deal with than (fin)sets. I'm sure we could Chevalley with (fin)sets but it doesn't really seem worth trying

Comment (alreadydone) [reply Mathlib/RingTheory/Spectrum/Prime/ConstructibleSet.lean]: That's fair, thanks.
maintainer delegate

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
